* C:\Users\phild\Documents\Uni\S4\APP4\S4_APP4\S4iAPP4_prob\alu_test_trans.asc
XX1 vdd a1 a2 a3 b1 b2 b4 0 o1 o2 o3 sel cout 0 alu params: ll=180n wn={nnw} wp={nnw*mp}
XU1 o1 o2 o3 out Bin2Dec Vhigh={vv}
XU2 b b1 b2 b4 Dec2Bin Vhigh={vv}
XU3 a a1 a2 a3 Dec2Bin Vhigh={vv}
V1 vdd 0 1.8
Va a 0 PULSE(6 3 500p 1p 1p 4000p 8000p 3)
Vb b 0 PULSE(3 5 500p 1p 1p 2000p 4000p 5)
Vsel sel 0 PULSE(1.8 0 0 1p 1p 10n 20n)

* block symbol definitions
.subckt alu vdd a1 a2 a3 b1 b2 b3 vss o1 o2 o3 sel cout cin
XX1 vdd a1 a2 a3 b1 b2 b3 vss N006 N008 N009 N010 cin add3b params: ll=180n wn={nnw} wp={nnw*mp}
XX2 vdd a1 a2 a3 b1 b2 b3 vss N001 N002 N003 and3b params: ll=180n wn={nnw} wp={nnw*mp}
XX3 vdd N001 N002 N003 N006 N008 N009 vss N004 N005 N007 sel mux2x3b params: ll=180n wn={2*nnw} wp={nnw*mp}
XX6 N004 o1 vdd vss pad_buffer
XX7 N005 o2 vdd vss pad_buffer
XX8 N007 o3 vdd vss pad_buffer
C1 o1 0 1.5p
C2 o2 0 1.5p
C3 o3 0 1.5p
C4 cout 0 1.5p
XX9 N010 cout vdd vss pad_buffer
.ends alu

.subckt add3b vdd a1 a2 a3 b1 b2 b3 vss o1 o2 o3 cout cin
XX1 a1 N001 vdd vss b1 xor params: XOR ll=180n wn={3.1*nnw} wp={3.1*nnw*mp}
XX4 cin o1 vdd vss N001 xor params: XOR ll=180n wn={3.1*nnw} wp={3.1*nnw*mp}
XX5 a1 N003 vdd vss b1 nand params: NAND ll=180n wn={2*nnw} wp={1.5*nnw*mp}
XX6 N003 N002 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
XX7 cin N004 vdd vss N001 nand params: NAND ll=180n wn={2*nnw} wp={1.5*nnw*mp}
XX8 N004 N005 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
XX9 N002 N006 vdd vss N005 nor params: NOR ll=180n wn={nnw} wp={2*nnw*mp}
XX24 N006 N007 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
XX10 a2 N008 vdd vss b2 xor params: XOR ll=180n wn={3.1*nnw} wp={3.1*nnw*mp}
XX11 N007 o2 vdd vss N008 xor params: XOR ll=180n wn={3.1*nnw} wp={3.1*nnw*mp}
XX12 a2 N010 vdd vss b2 nand params: NAND ll=180n wn={2*nnw} wp={1.5*nnw*mp}
XX13 N010 N009 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
XX14 N007 N011 vdd vss N008 nand params: NAND ll=180n wn={2*nnw} wp={1.5*nnw*mp}
XX15 N011 N012 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
XX16 N009 N013 vdd vss N012 nor params: NOR ll=180n wn={nnw} wp={2*nnw*mp}
XX17 N013 N014 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
XX18 a3 N015 vdd vss b3 xor params: XOR ll=180n wn={3.1*nnw} wp={3.1*nnw*mp}
XX19 N014 o3 vdd vss N015 xor params: XOR ll=180n wn={3.1*nnw} wp={3.1*nnw*mp}
XX20 a3 N017 vdd vss b3 nand params: NAND ll=180n wn={2*nnw} wp={1.5*nnw*mp}
XX21 N017 N016 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
XX22 N014 N018 vdd vss N015 nand params: NAND ll=180n wn={2*nnw} wp={1.5*nnw*mp}
XX23 N018 N019 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
XX25 N016 N020 vdd vss N019 nor params: NOR ll=180n wn={nnw} wp={2*nnw*mp}
XX26 N020 cout vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
.ends add3b

.subckt and3b vdd a1 a2 a3 b1 b2 b3 vss o1 o2 o3
XX1 a1 N001 vdd vss b1 nand params: NAND ll=180n wn={2*nnw} wp={1.5*nnw*mp}
XX2 N001 o1 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
XX3 a2 N002 vdd vss b2 nand params: NAND ll=180n wn={2*nnw} wp={1.5*nnw*mp}
XX4 N002 o2 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
XX5 a3 N003 vdd vss b3 nand params: NAND ll=180n wn={2*nnw} wp={1.5*nnw*mp}
XX6 N003 o3 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
.ends and3b

.subckt mux2x3b vdd a1 a2 a3 b1 b2 b3 vss o1 o2 o3 sel
M1 a3 sel N008 vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M2 N008 sel b3 vss NMOS l={ll} w={1*{wn}} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M3 vdd N008 N009 vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M4 N009 N008 vss vss NMOS l={ll} w={1*{wn}} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M5 vdd N009 o3 vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M6 o3 N009 vss vss NMOS l={ll} w={1*{wn}} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M7 a2 N002 N006 N001 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M8 N006 N002 b2 N005 NMOS l={ll} w={1*{wn}} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M9 N001 N006 N007 N001 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M10 N007 N006 N005 N005 NMOS l={ll} w={1*{wn}} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M11 N001 N007 o2 N001 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M12 o2 N007 N005 N005 NMOS l={ll} w={1*{wn}} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M13 a1 N002 N003 N001 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M14 N003 N002 b1 N005 NMOS l={ll} w={1*{wn}} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M15 N001 N003 N004 N001 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M16 N004 N003 N005 N005 NMOS l={ll} w={1*{wn}} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M17 N001 N004 o1 N001 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M18 o1 N004 N005 N005 NMOS l={ll} w={1*{wn}} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
.ends mux2x3b

.subckt pad_buffer In out vdd vss
XX1 in N001 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
XX2 N001 N002 vdd vss inv params: ll=180n wn={10*nnw} wp={10*nnw*mp}
XX3 N002 N003 vdd vss inv params: ll=180n wn={50*nnw} wp={50*nnw*mp}
XX4 N003 N004 vdd vss inv params: ll=180n wn={100*nnw} wp={100*nnw*mp}
XX5 N004 N005 vdd vss inv params: ll=180n wn={500*nnw} wp={500*nnw*mp}
XX6 N005 out vdd vss inv params: ll=180n wn={1500*nnw} wp={1500*nnw*mp}
.param wpad=360u nnw=180n mp=2.16 fac=0.5
.lib BU_180nm.lib
.ends pad_buffer

.subckt xor in1 Q vdd vss in2
XX1 in1 N001 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
XX2 in2 N004 vdd vss inv params: ll=180n wn={nnw} wp={nnw*mp}
M1 vdd in1 N002 vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M2 N002 N004 Q N002 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M3 vdd N001 N003 vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M4 N003 in2 Q N003 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M5 Q in1 N005 N005 NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M6 N005 in2 vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M7 Q N001 N006 N006 NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M8 N006 N004 vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
.lib BU_180nm.lib
.ends xor

.subckt nand in1 Q vdd vss in2
M1 vdd in1 Q vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M2 vdd in2 Q vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M3 Q in1 N001 N001 NMOS l={ll} w={1*{wn}} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M4 N001 in2 vss vss NMOS l={ll} w={1*{wn}} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
.lib BU_180nm.lib
.ends nand

.subckt inv In _Q vdd vss
M1 _Q In vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M2 vdd In _Q vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
.lib BU_180nm.lib
.ends inv

.subckt nor in1 Q vdd vss in2
M1 vdd in1 N001 vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M2 N001 in2 Q N001 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M3 Q in2 vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M4 Q in1 vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
.lib BU_180nm.lib
.ends nor

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\phild\Documents\LTspiceXVII\lib\cmp\standard.mos
.param vv=1.8 nnw=180n mp=1
.lib BU_180nm.lib
.tran 0 20n 0 10p
* sel = 0: AND\n     = 1: ADD
.meas tran t1 find time when v(o1)=vv*0.1 rise 1
.meas tran t2 find time when v(o1)=vv*0.9 rise 1
.meas tran t3 find time when v(o1)=vv*0.1 fall 1
.meas tran t4 find time when v(o1)=vv*0.9 fall 1
.meas tran transition_up param abs(t2-t1)
.meas tran transition_down param abs(t4-t3)
.meas tran ratio param upslope/downslope
.lib Bin2Dec.sub
.lib Dec2Bin.sub
.backanno
.end
